US07592373B2
2.1.b. 2-(4-iodophenyl)ethyl methanesulfonate
Prepared analogously to Example 1.2.b. from 2-(4-iodophenyl)ethanol and methanesulfonic acid chloride. Yield: 5.7 g (77.4% of theory); C9H11IO3S (M=326.15); calc.: molecular ion peak (M)+: 326; found: molecular ion peak (M)+: 326.

reactant | 2-(4-iodophenyl)ethanol | IC1=CC=C(C=C1)CCO | C8H9IO
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(4-iodophenyl)ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)I | C9H11IO3S
